US07157455B2
To a solution of [4-amino-2-(piperidin-4-ylamino)-pyrimidin-5-yl]-(2-methoxy-phenyl)-methanone trifluoroacetic acid salt, (31 mg, Example 11) in dimethylformamide (2 mL) were added triethylamine (19 mg, 0.193 mmol, Aldrich), 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride (6.6 mg, 0.0344 mmol, Aldrich), 1-hydroxybenzotriazole hydrate (5.0 mg, 0.037 mmol, Aldrich), followed by acetic acid (2.3 mg, 0.034 mmol). The reaction mixture was stirred overnight at room temperature, taken up in ethyl acetate (15 mL), washed with brine and evaporated. The crude product was purified on silica gel with 95:5 of dichloromethane/methanol to give 1-[4-[4-amino-5-(2-methoxy-benzoyl)-pyrimidin-2-ylamino]-piperidin-1-yl]-ethanone (11.2 mg). HRMS, observed: 370.1875; Calcd for (M+H)+: 370.1874.

reactant | [4-amino-2-(piperidin-4-ylamino)-pyrimidin-5-yl]-(2-methoxy-phenyl)-methanone trifluoroacetic acid salt | FC(C(=O)O)(F)F.NC1=NC(=NC=C1C(=O)C1=C(C=CC=C1)OC)NC1CCNCC1
reactant | triethylamine | 0.193 mmol, 19 mg | C(C)N(CC)CC | C6H15N
reactant | 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride | 0.0344 mmol, 6.6 mg | Cl.CN(CCCN=C=NCC)C
reactant | 1-hydroxybenzotriazole hydrate | 0.037 mmol, 5.0 mg | O.ON1N=NC2=C1C=CC=C2
reactant | acetic acid | 0.034 mmol, 2.3 mg | C(C)(=O)O | C2H4O2
solvent | dimethylformamide | 2 mL | CN(C=O)C | C3H7NO
solvent | ethyl acetate | 15 mL | C(C)(=O)OCC | C4H8O2
product | 1-[4-[4-amino-5-(2-methoxy-benzoyl)-pyrimidin-2-ylamino]-piperidin-1-yl]-ethanone | 11.2 mg | NC1=NC(=NC=C1C(C1=C(C=CC=C1)OC)=O)NC1CCN(CC1)C(C)=O | C19H23N5O3
